US06797726B1
In 2.9 mL of ethyl acetate is dissolved 0.48 g of 2-[{2-[2-(6-fluorobenzo[b]thiophen-7-yl)ethoxy]ethyl}-(methyl)amino]-1-ethanol, to which is added 0.57 mL of 3.6 mol/L solution of dry hydrogen chloride in ethyl acetate. The mixture is stirred at ambient temperature for one hour. The reaction mixture is diluted with 5 mL of diisopropyl ether and stirred at ambient temperature for one hour. The deposited crystal is collected by filtration, washed with ethyl acetate and dried to obtain 0.45 g of 2-[{2-[2-(6-fluorobenzo[b]thiophen-7-yl)ethoxy]ethyl}(methyl)-amino]-1-ethanol hydrochloride.

reactant | 2-[{2-[2-(6-fluorobenzo[b]thiophen-7-yl)ethoxy]ethyl}-(methyl)amino]-1-ethanol | 0.48 g | FC=1C=CC2=C(SC=C2)C1CCOCCN(CCO)C | C15H20FNO2S
reactant | hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 2.9 mL | C(C)(=O)OCC | C4H8O2
solvent | diisopropyl ether | 5 mL | C(C)(C)OC(C)C | C6H14O
product | 2-[{2-[2-(6-fluorobenzo[b]thiophen-7-yl)ethoxy]ethyl}(methyl)-amino]-1-ethanol hydrochloride | 0.45 g | Cl.FC=1C=CC2=C(SC=C2)C1CCOCCN(CCO)C | InChI=1S/C15H20FNO2S.ClH/c1-17(6-8-18)7-10-19-9-4-13-14(16)3-2-12-5-11-20-15(12)13;/h2-3,5,11,18H,4,6-10H2,1H3;1H
